US08114867B2
76.i. [(rac)-4-hydroxy-5-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-ylamino)-pentyl]-carbamic acid tert-butyl ester
A solution of ((rac)-3-oxiranyl-propyl)-carbamic acid tert-butyl ester (1.08 g, 5.34 mmol) and 6-amino-4H-benzo[1,4]thiazin-3-one (1.01 g, 5.61 mmol) in 9:1 EtOH/H2O (20 mL) was heated at 70° C. overnight. After cooling the mixture was concentrated in vacuo and chromatographed on SiO2 (DCM-MeOH—NH4OH: 1000:50:4) to afford the title intermediate as beige foam (767 mg, 38% yield).

reactant | ((rac)-3-oxiranyl-propyl)-carbamic acid tert-butyl ester | 5.34 mmol, 1.08 g | C(C)(C)(C)OC(NCCCC1OC1)=O | C10H19NO3
reactant | 6-amino-4H-benzo[1,4]thiazin-3-one | 5.61 mmol, 1.01 g | NC=1C=CC2=C(NC(CS2)=O)C1 | C8H8N2OS
solvent | EtOH H2O | 20 mL | CCO.O
product | [(rac)-4-hydroxy-5-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-ylamino)-pentyl]-carbamic acid tert-butyl ester | 767 mg, 38% yield | C(C)(C)(C)OC(NCCCC(CNC=1C=CC2=C(NC(CS2)=O)C1)O)=O | C18H27N3O4S
